US04151179
(b) 2-[2,3-Dihydro-2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionic acid
Ethyl-2-[2,3-dihydro-2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionate (6 g) was dissolved in ethanol (200 ml) and heated to reflux with dilute aqueous sodium bicarbonate solution (50 ml) for eight hours. The reaction mixture was poured into water, acidified and extracted with ether. The combined ethereal extracts were washed with water and dried (MgSO4) and concentrated in vacuo affording a mixture of the desired product and starting material which were separated by chromatography on silica gel using dichloromethane/ether mixtures as eluant. The title compound was recrystallised from petroleum ether (bp 40°-60° C.) as a white solid: 1.4 g, mp 117°-8° C.

reactant | Ethyl-2-[2,3-dihydro-2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionate | 6 g | C(C)OC(C(C)C=1C=CC2=C(C(CC(O2)C(C)(C)C)=O)C1)=O | C18H24O4
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-[2,3-Dihydro-2-(1,1-dimethylethyl)-4-oxo-4H-1-benzopyran-6-yl]propionic acid | CC(C)(C)C1OC2=C(C(C1)=O)C=C(C=C2)C(C(=O)O)C | C16H20O4
